US05166206
6-Butyl-4-carboxy-2-methyl-5-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]pyrimidine
To a solution of 68.4 mg (0.155 mmol) 6-butyl-4-methoxycarbonyl-2-methyl-5-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]pyrimidine in 5 mL methanol was added ~0.300 mL 10% NaOH. After stirring at room temperature for 2.5 hours, the mixture was acidified with ~0.500 mL HOAc. Volatiles were removed in vacuo. The crude material was redissolved in methanol along with a couple of drops of TFA, then was HPLC'd using the following conditions: Rainin Dynamax® C-18 column, 25×2.14 cm w/Guard Column; gradient of acetonitrile in water 5 to 100% over 40 minutes at 5 mL/minute; gradient held at 82% for 7 minutes. A yield of 66.1 mg (100%) of the title compound was obtained. Rf 0.14 in 1/30/69 NH4OH/MeOH/CH2Cl2, visualized by UV;

reactant | 6-butyl-4-methoxycarbonyl-2-methyl-5-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]pyrimidine | 0.155 mmol, 68.4 mg | C(CCC)C1=C(C(=NC(=N1)C)C(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H26N6O2
reactant | NaOH | ~0.300 mL | [OH-].[Na+]
reactant | HOAc | ~0.500 mL | CC(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | 6-Butyl-4-carboxy-2-methyl-5-[(2'-(tetrazol-5-yl)biphen-4-yl)methyl]pyrimidine | yield of 66.1 mg, 100% | C(CCC)C1=C(C(=NC(=N1)C)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H24N6O2
